US07115597B2
2-(2,6-Dimethoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile (22-12)
A flame dried flask under Ar was charged with sodium hydride (110 mg, 60% dispersion, 2.77 mmol) and 3 mL anhydrous THF. 2,6-Dimethoxy-pyrimidin-4-ylamine (118 mg, 0.76 mmol) was added slowly. After the resulting bubbling ceased, 2-chloro-thiazole-5-carbonitrile (100 mg, 0.69 mmol) was added and the reaction was heated to 40° C. After several hours the reaction was cooled to room temperature, the ThF was removed in vacuo, and the mixture was diluted with water and adjusted to pH 7 with 1M HCl (aq). The resulting precipitate was filtered, washed with water and air dried. The resulting solid was purified by flash column chromatography (eluted with 3:1 hexane/EtOAc) followed by purification by reverse phase HPLC. The product was free based with sat NaHCO3 (aq) and filtered to give a pure sample of the title compound. 1H-NMR (300 MHz, DMSO-d6) 12.36 (s, 1H), 8.29 (1H, s), 6.02 (1H, s), 4.02 (s, 3H), 3.87 (s, 3H). mp>250.

reactant | sodium hydride | 2.77 mmol, 110 mg | [H-].[Na+]
reactant | 2,6-Dimethoxy-pyrimidin-4-ylamine | 0.76 mmol, 118 mg | COC1=NC(=CC(=N1)N)OC | C6H9N3O2
reactant | 2-chloro-thiazole-5-carbonitrile | 0.69 mmol, 100 mg | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(2,6-Dimethoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile | COC1=NC(=CC(=N1)NC=1SC(=CN1)C#N)OC | C10H9N5O2S
